### PR TITLE
feat(ErdosProblems): 323

### LINKED ISSUE #488: Erdős Problem 323
### What is the conjecture
    
https://www.erdosproblems.com/323

  Let $1\leq m\leq k$ and $f_{k,m}(x)$ denote the number of integers $\leq x$ which are the sum of $m$ many nonnegative $k$-th powers. Is it true that $f_{k,k}(x) \gg_\epsilon x^{1-\epsilon}$ for all $\epsilon>0$? Is it true that if $m<k$ then $f_{k,m}(x) \gg x^{m/k}$ for sufficiently large $x$?

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by danielchin**
Closes #488 

Formalizes Erdos Problem 323: https://www.erdosproblems.com/323

Assisted by Gemini/Antigravity

### CODE REVIEW

File: FormalConjectures/ErdosProblems/323.lean [hunk 1]
```diff
@@ -0,0 +1,76 @@
...
+/--
+Is it true that $f_{k,k}(x) \gg_\epsilon x^{1-\epsilon}$ for all $\epsilon>0$?
+
+This would have significant applications to Waring's problem. Erd\H{o}s and Graham describe this as
+'unattackable by the methods at our disposal'.
+-/
+@[category research open, AMS 11]
+theorem erdos_323.parts.i :
+    answer(sorry) ↔ ∀ k ≥ 1, ∀ ε > 0,
+      (fun (x : ℕ) ↦ (x : ℝ) ^ (1 - ε)) =O[atTop] (fun (x : ℕ) ↦ (f k k x : ℝ)) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/323.lean:46]: I think one problem here is that `ε` is a a natural number here. In any case, AlphaProof finds a proof:
```
theorem erdos_323.parts.i :
    answer(True) ↔ ∀ k ≥ 1, ∀ ε > 0,
      (fun (x : ℕ) ↦ (x : ℝ) ^ (1 - ε)) =O[atTop] (fun (x : ℕ) ↦ (f k k x : ℝ)) := by
  simp_all? (config := {singlePass:= 1}) -contextual[ f]
  use fun and R L M=>.of_bound (1) (.of_forall fun and=>mod_cast(1).sub_eq_zero_of_le M▸Nat.mul_pos (by decide) (Nat.card_pos_iff.2 ⟨⟨0,bot_le,0,by field_simp⟩,(Set.finite_le_nat and).sep _,⟩))
```

**Review by mo271 — COMMENTED** [review]
Thank you! Looks good in general, but the at least one bug: the type of epsilon...

File: FormalConjectures/ErdosProblems/323.lean (hunk 1 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/323.lean:46]: Changed `ε` to real.

**Review by mo271 — APPROVED** [review]
Thanks again, this LGTM now!
